US05183653
m-Carboxyphenylboronic Acid
To a solution of m-Tolylboronic acid (8.0 g, 0.059 mol) in 10% sodium hydroxide (250 ml) was added potassium permanganate (20 g) in small portions. The reaction mixture was stirred at room temperature for 48 hours. The precipitated manganese dioxide was filtered and the filtrate was acidified with 10% sulfuric acid and cooled. The white precipitate that formed was filtered and recrystallized from water. M.P. 250°-52° C.

reactant | m-Tolylboronic acid | 0.059 mol, 8.0 g | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | potassium permanganate | 20 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium hydroxide | 250 ml | [OH-].[Na+]
product | m-Carboxyphenylboronic Acid | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
